US04001268
To a solution containing 10 g (38.4 mmole) of p-chlorocarbonylphenylbenzoate dissolved in 100 ml of dichlorobenzene was added 2.53 g (12.8 mmole) of 1,2-diamino-4,5-dinitrobenzene. After heating the resulting mixture under nitrogen to reflux (frothing), it was maintained at that temperature for 2 hours. The solution was then allowed to cool in ice for one hour, and the precipitate that formed was filtered by suction, washed with benzene, and air-dried. The crude product was chromatographed on a 2× 18 inch dry column of silica gel. Elution with methylene chloride removed traces of impurities, while further elution of the column with 20/1 methylene chloride-THF slowly removed a broad band of the desired product, leaving a third band of side-product on the column. After all of the second band had been removed from the column, the solvent was removed in vacuo leaving a pale yellow residue. Recrystallization from THF-n-propanol yielded 3.0 g (58%) of 2-[p-carbophenoxyphenyl]-5,6-dinitrobenzimidazole as pale yellow needles, m.p. 239°-240°.

reactant | p-chlorocarbonylphenylbenzoate | 38.4 mmole, 10 g | ClC(=O)C1=CC(=C(C(=O)[O-])C=C1)C1=CC=CC=C1
reactant | 1,2-diamino-4,5-dinitrobenzene | 12.8 mmole, 2.53 g | NC1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])N | C6H6N4O4
solvent | dichlorobenzene | 100 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 2-[p-carbophenoxyphenyl]-5,6-dinitrobenzimidazole | 3.0 g, 58% | C(=O)(OC1=CC=CC=C1)C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-] | C20H12N4O6
